US07750161B2
Methyl-piperidin-4-yl-carbamic acid tert-butyl ester
A mixture of 4-(tert-butoxycarbonyl-methyl-amino)-piperidine-1-carboxylic acid benzyl ester (17.5 mmol) and Pd—C (10%, 500 mg) in MeOH (150 mL) hydrogenated at atm. pressure and r.t. for 15 h. The mixture is filtered and evaporated. The residue is dissolved in CH2Cl2 (100 mL) and 1 M aq. NaOH (50 mL) is added. The mixture is stirred for 6 h at r.t., then the phases are separated and the aq. phase is extracted with CH2Cl2 (3×50 mL). The combined organic extracts are dried (Na2SO4), filtered and evaporated to provide the title compound.

reactant | 4-(tert-butoxycarbonyl-methyl-amino)-piperidine-1-carboxylic acid benzyl ester | 17.5 mmol | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N(C)C(=O)OC(C)(C)C | C19H28N2O4
solvent | MeOH | 150 mL | CO | CH4O
catalyst | Pd—C | 500 mg | [Pd] | Pd
product | Methyl-piperidin-4-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1CCNCC1)C)=O | C11H22N2O2
